### PR TITLE
Ferinko/cleanups2

### PR DESCRIPTION
**Pull request by Ferinko**

### CODE REVIEW

File: ZKLib/ProofSystem/Fri/EvenAndOdd/ToMathlib.lean [hunk 1]
```diff
@@ -4,132 +4,71 @@ import Mathlib.Algebra.Polynomial.Degree.Definitions
...
 
 @[simp]
-lemma inv_two_mul_two :
-  2⁻¹ * (2 : F)  = 1 := by
-    rw [mul_comm, Field.mul_inv_cancel _ two_neq_0_in_non_binary_field]
+lemma inv_two_mul_two : 2⁻¹ * (2 : F) = 1 := by simp
 
 end NonBinaryField
 
 variable {F: Type} [Field F]
```
Comment (ElijahVlasov) [inline ZKLib/ProofSystem/Fri/EvenAndOdd/ToMathlib.lean:29]: Should we probably move this into the section below?

**Review by ElijahVlasov — APPROVED** [review]
